Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
sigmoid diverticular gastrointestinal bleed
 
Major Surgical or Invasive Procedure:
___ ___ attempted embolization through right groin. No 
intervention done.

 
History of Present Illness:
___ F with PMH dementia, HTN, on aspirin, and diverticulosis 
who was transferred for management of lower gastrointestinal 
bleed. She initially presented with ___ and was 
admitted on ___. On ___, bleed became brisk with melena and 
clots. Tagged red cell scan identified the sigmoid colon as a 
source of the bleed so patient underwent a colonoscopy on 
___ with Dr. ___. A clip was placed on a diverticulum 
which appeared to have exudate, but the clip fell off per 
report. No further active bleeding noted. The patient was 
managed in the ICU with stable hemodynamics (hypertensive), off 
home antihypertensive of Norvasc and Lisinopril since ___. She 
received in total 3 units PRBCs, with the last trasfusion just 
prior to transfer on ___. Hemoglobin slightly decreased today 
from yesterday. She continues to pass BRBPR, remains HD stable. 
Transferred to ___ for further intervention, possible ___ 
embolization. ___ and GI aware of case.
 
Hgb 10.5 on OSH admit, nadir 7.9 on ___, 9.4 ___ ___, 8.4 on 
___ AM
(received ___ RBC transfusion this AM). VS prior to transfer: 
141/62 77 resp 15 sats 100% unknown supplementation. 

On arrival to the floor, patient is passing BRBPR. No dizziness, 
lightheadedness, shortness of breath, nausea, abdominal pain or 
other complaints.
 
Past Medical History:
HTN
Dementia
h/o UTI
Essential tremor
Diverticulosis c/b diverticular bleed
Osteoarthritis
GERD
allergic rhinitis 
migraine HAs 
depression
olecranon bursitis ___ resolved post bursal fluid aspiration ___
s/p TAH 
osteoporosis
s/p bladder suspension 
s/p hemorrhoidectomy 
s/p resection of lipoma R upper arm
sebaceous cyst L upper back
 
Social History:
___
Family History:
father died @ ___ - brain tumor, seizures 
mother died @ ___ - pneumonia, ?MI 
sister died of melanoma (?) 
brother died of "tumor" 
brother died of liver problems 
daughter - hx EtOH and drug abuse (now sober), seizure d/o, 
borderline DM 
son - schizophrenia 
2 other sons – healthy
 
Physical ___:
Admission Exam:
Vitals:  99.4 162/72 83 18 97%RA 
GENERAL: NAD, awake and alert, pleasant, but forgetful and vague 
at baseline.
HEENT: EOMI, PERRLA, anicteric sclera, MMM
NECK:  nontender and supple, no LAD, no JVD  
CARDIAC: RRR, nl S1 S2, ___ Murmur loudest at LLSB, no R or G  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABDOMEN: +BS, soft, non-tender, non-distended, no rebound or 
guarding, no HSM. Sitting in bright red blood.
EXT: warm and well-perfused, no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal, gait not tested
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

Discharge Exam:
Vitals:  97.9 132/62 70 16 98%RA 56/6kg
GENERAL: NAD, awake and alert, pleasant, but forgetful w/ 
mild-moderate dementia
HEENT: EOMI, PERRLA, anicteric sclera, dry MM
NECK:  nontender and supple, no LAD, no JVD  
CARDIAC: RRR, nl S1 S2, ___ Murmur loudest at LLSB, no R or G  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABDOMEN: +BS, soft, non-tender, non-distended, no rebound or 
guarding, no HSM.
EXT: warm and well-perfused, no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal, gait not tested
SKIN: warm and well perfused, no excoriations or lesions, mild 
erythematous rash with superficial excoriation around buttocks 
and groin (contact dermatitis, getting barrier cream) 
 
Pertinent Results:
Admission Labs:
___ 07:10PM BLOOD WBC-5.6 RBC-3.57* Hgb-10.8* Hct-32.0* 
MCV-90 MCH-30.3 MCHC-33.8 RDW-14.7 Plt ___
___ 07:10PM BLOOD ___ PTT-28.0 ___
___ 07:10PM BLOOD Glucose-115* UreaN-14 Creat-0.7 Na-141 
K-3.6 Cl-113* HCO3-23 AnGap-9
___ 07:35AM BLOOD ALT-11 AST-21 AlkPhos-48 TotBili-0.7
___ 07:10PM BLOOD Calcium-8.2* Phos-2.3* Mg-1.4*

Discharge Labs:
___ 06:22AM BLOOD WBC-5.0 RBC-3.32* Hgb-10.1* Hct-29.4* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-15.7* Plt ___
___ 06:22AM BLOOD Glucose-97 UreaN-20 Creat-0.5 Na-146* 
K-3.6 Cl-110* HCO3-27 AnGap-13
___ 06:22AM BLOOD Calcium-8.2* Phos-3.1 Mg-1.5*

Micro: None

Imaging:
CTA: 1.  Large sigmoid bleed with colonic diverticulosis.  This 
is likely a diverticular bleed. 
2.  Diffusely thickened urinary bladder wall is likely 
predominantly due to decompression from Foley catheter but 
please correlate with symptoms of
cystitis or results of cystoscopy.   
3.  Small free pelvic fluid is nonhemorrhagic but not 
physiologic in a 
postmenopausal female.   
4.  Small layering stones or sludge within the gallbladder with 
two 1.3 cm rounded densities in the common bile duct.  These 
likely represent CBD stones or sludge and are associated with 
CBD dilatation and moderate intrahepatic bile duct dilatation.   

 
Brief Hospital Course:
___ F with PMH dementia, HTN, diverticulosis who was 
transferred for management of a sigmoid diverticular 
gastrointestinal bleed, which resolved without intervention.

# Lower GIB: Patient was transferred from ___ where 
she presented with a GIB. At OSH, tagged RBC scan and 
colonoscopy suggested source was sigmoid diverticula. Patient 
received 3 units PRBCs prior to transfer with an admission hct 
of 32.2 at ___. Here, CTA confirmed location of bleed. Patient 
was given an additional 1 unit of PRBCs and 2L of IVFs. 
Gastroenterology and Interventional Radiology followed the 
patient. ___ was not able to intervene as bleed stopped prior to 
___ procedure early in the morning (~1am) on ___. Blood 
levels were trended and remained stable. Patient continued to 
pass intermittent marroon colored bowel movements consistent 
with old blood, no evidence of fresh blood. Discharge hct was 
30.9. Diet was advanced and patient did well. 

# HTN: Aspirin was discontinued this admission given patient's 
dementia and risk of GIB. Lisinopril 20 MG DAILY and Amlodipine 
2.5 MG daily were restarted when bleed ceased.

# ?GERD/gastritis: While NPO, patient was managed with IV PPI. 
Home omeprazole (Prilosec) 20 MG BID was restarted on discharge.

# Dementia/Depression: Ativan BID and Prozac and Remeron Qhs 
were restarted once diet was advanced.

# Rash: Contact dermatitis from the diapers. Barrier cream 
applied.

Transitional Issues:
CODE: Full
EMERGENCY CONTACT HCP: ___ ___
- Discharged to rehab for physical therapy.
- Aspirin was discontinued this admission given patient's 
dementia and risk of GIB. 
- Patient will continue to pass old marroon colored stools. Can 
consider checking a hematocrit for fresh bright red blood 
(baseline around 30). If patient has evidence of bright red 
bloody bowel movements, please transfer back to ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Loratadine 10 mg PO DAILY 
4. Amlodipine 2.5 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Lorazepam 0.5 mg PO BID anxiety 
7. Meclizine 25 mg PO TID dizzy 
8. Omeprazole 20 mg PO BID 
9. Fluoxetine 10 mg PO DAILY 
10. Docusate Sodium 200 mg PO HS 
11. Senna 17.2 mg PO HS 
12. Multivitamins 1 TAB PO DAILY 
13. Mirtazapine 45 mg PO HS 

 
Discharge Medications:
1. Amlodipine 2.5 mg PO DAILY 
2. Fluoxetine 10 mg PO HS 
3. Lisinopril 20 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID anxiety 
5. Meclizine 25 mg PO TID dizzy 
6. Mirtazapine 45 mg PO HS 
7. Docusate Sodium 200 mg PO HS 
8. Loratadine 10 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Omeprazole 20 mg PO BID 
11. Senna 17.2 mg PO HS 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Sigmoid Diverticular Bleed
Secondary Diagnosis:
Hypertension
Dementia
Osteoarthritis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure caring for you at ___ 
___. You were transferred for management of your 
gastrointestinal bleeding. While you were here, you had a CAT 
scan of your abdomen which localized the bleeding to your 
sigmoid colon. It appears to be due to a diverticulum (pocket in 
the wall of your colon). The bleeding stopped on it's own. In 
total, you received 1 blood transfusion during your stay at ___ 
___ Deaconess. ___ restarted your medications and food and you 
did well. You worked with physical therapy as it was felt that 
you would benefit from intensive physical therapy at a 
rehabilitation program.
 
Followup Instructions:
___